data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2467,2735,[CH3:13][C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[C-:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]#[C:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]2=[C:7]([CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1)[C:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[N:21]([CH3:22])[C:14]2([CH3:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,26.725130880763626,-47.07018362597179
2632,2919,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([Br:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][n+:22]1[n-:23][c:24](=[O:25])[o:26][c:27]1-[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([Br:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[N:23]1[N:22]([CH3:21])[C:27]2([c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[O:26][C:24]1=[O:25],water,298.15,33.36473717397028,8.764062928800918
2353,2612,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20]#[N:21])[N+:22]([CH3:23])=[C:24]([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:24]([C:25]([CH3:26])=[O:27])([C:28]([CH3:29])=[O:30])[N:22]([CH3:23])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,20.991470036747447,-45.61644277239972
4191,4795,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][NH-:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][NH:16][O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,9.05774069297943,-38.17961240105368
4458,5090,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([C:19](=[O:20])[NH:21][CH3:22])[o+:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[O:15][C:16](=[O:17])[C:18]1([C:19](=[O:20])[NH:21][CH3:22])[O:23]2,water,298.15,15.335302666683896,-17.802239516577913
2126,2360,[CH3:13][O:14][C:15](=[O:16])[C:17](=[O+:18][C-:19]([C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][O:2][C:3](=[O:4])/[C:5]([F:6])=[C:7](/[F:8])[C:9](=[O:10])[O:11][CH3:12]>>[CH3:1][O:2][C:3](=[O:4])[C@@:5]1([F:6])[C@@:7]([F:8])([C:9](=[O:10])[O:11][CH3:12])[C:19]([C:20]#[N:21])([C:22](=[O:23])[O:24][CH3:25])[O:18][C:17]1([C:15]([O:14][CH3:13])=[O:16])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,17.05586916080851,-31.7059324871506
437,479,[CH3:15][O:16][C:17](=[O:18])[CH-:19][N+:20]#[N:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[CH:19]([C:17]([O:16][CH3:15])=[O:18])[N:20]=[N:21]3,water,298.15,28.54720748967541,-23.57521810967221
2017,2240,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2]1([F:3])[C:4]#[C:5][C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:19]([C:20]([CH3:21])=[O:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:18]=[C:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,10.128911489941885,-57.22371206351611
2840,3156,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([Br:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][C:25]#[N+:26][C-:27]([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([Br:13])([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:27]([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[N:26]=[C:25]2[CH3:24],water,298.15,5.762153375844543,-49.46342286360144
2488,2763,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Cl:11])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[C-:26]([C:27]#[N:28])[N+:29]#[C:30][C:31](=[O:32])[O:33][CH3:34]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Cl:11])([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:26]([C:24]([NH:23][CH3:22])=[O:25])([C:27]#[N:28])[N:29]=[C:30]2[C:31](=[O:32])[O:33][CH3:34],water,298.15,15.238124843331942,-53.86208156533014
